US08802664B2
To a solution of 2-((1-methylpiperidin-4-yloxy){3-[3-(1-trityl-1H-imidazol-4-yl)propylsulfanyl]phenyl}methyl)-1H-benzimidazole (200 mg) in 1,2-dichloroethane (7 mL) are added phenol (270 mg) and chlorotrimethylsilane (0.37 mL). The reaction mixture is heated at reflux overnight. Volatiles are removed under reduced pressure and the residue is purified by chromatography (gradient dichloromethane/methanol/ammonia from 98/2/0.2 to 90/10/1) to give 2-[{3-[3-(3H-imidazol-4-yl)propylsulfanyl]phenyl}(1-methylpiperidin-4-yloxy)methyl]-1H-benzimidazole.

reactant | 2-((1-methylpiperidin-4-yloxy){3-[3-(1-trityl-1H-imidazol-4-yl)propylsulfanyl]phenyl}methyl)-1H-benzimidazole | 200 mg | CN1CCC(CC1)OC(C1=NC2=C(N1)C=CC=C2)C2=CC(=CC=C2)SCCCC=2N=CN(C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C45H45N5OS
reactant | phenol | 270 mg | C1(=CC=CC=C1)O | C6H6O
reactant | chlorotrimethylsilane | 0.37 mL | Cl[Si](C)(C)C | C3H9ClSi
solvent | 1,2-dichloroethane | 7 mL | ClCCCl | C2H4Cl2
product | 2-[{3-[3-(3H-imidazol-4-yl)propylsulfanyl]phenyl}(1-methylpiperidin-4-yloxy)methyl]-1H-benzimidazole | N1=CNC(=C1)CCCSC=1C=C(C=CC1)C(C1=NC2=C(N1)C=CC=C2)OC2CCN(CC2)C | C26H31N5OS
